US08541409B2
Carbamic acid 3-[4-(4-fluoro-phenyl)-piperazin-1-yl]-3-oxo-1-phenyl-propyl ester
Ethyl benzoylacetate (2.887 mmol) and 4-fluorophenylpiperazine (2.887 mmol) were dissolved in toluene, and refluxed for 24 hours. The resulting reaction mixture was concentrated under a reduced pressure, and dissolved in methanol, and cooled to 0° C., and sodium borohydride (2.887 mmol) was then added dropwise to the resulting mixture. The resulting mixture was stirred at a room temperature for 2 hours, concentrated under a reduced pressure, diluted with water, and then extracted several times with ethyl acetate to obtain an organic phase. The resulting organic phase was dried over magnesium sulfate, filtered, and then concentrated under a reduced pressure. The resulting mixture was purified with column chromatography (hexane:ethyl acetate=1:1) to obtain a compound. The prepared compound was dissolved in tetrahydrofuran (10 mL), and 1,1′-carbodiimidazole (5 mmol) was added to the resulting mixture. Then, the resulting mixture was stirred at a room temperature for 1 hour, and excessive ammonium hydroxide was added to the reaction mixture. The resulting reaction mixture was stirred at a room temperature for 1 hour. The reaction mixture was diluted with water, and extracted several times with ethyl acetate to obtain an organic phase. The prepared organic phase was dried over magnesium sulfate, filtered, and then concentrated under a reduced pressure. The resulting pellet was purified with column chromatography (ethyl acetate) to obtain a title compound.

reactant | Ethyl benzoylacetate | 2.887 mmol | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | 4-fluorophenylpiperazine | 2.887 mmol | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | sodium borohydride | 2.887 mmol | [BH4-].[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | Carbamic acid 3-[4-(4-fluoro-phenyl)-piperazin-1-yl]-3-oxo-1-phenyl-propyl ester | FC1=CC=C(C=C1)N1CCN(CC1)C(CC(C1=CC=CC=C1)OC(N)=O)=O | C20H22FN3O3
